US08183386B2
The foregoing 1,2-dichloroethane solution of a propionyl chloride.aluminum chloride complex was added dropwise to a solution consisting of 128.2 g (1.0 mol) of naphthalene and 300 mL of 1,2-dichloroethane at 35 to 40° C. over one hour. After completion of addition, the resulting mixed liquid was heated at 45 to 50° C. for 2 hours and after cooling to room temperature, was poured into, ice water. 200 mL of concentrated hydrochloric acid was further added thereto, and the mixture was stirred and mixed. The product as formed in this reaction mixture was extracted with chloroform together with 1,2-dichloroethane, dried over magnesium sulfate, and concentrated in vacuo. A concentrated liquid was distilled in vacuo to obtain 145.3 g (yield: 79%, boiling point: 139 to 142° C./4 mmHg) of 1-propionaphthone as a pale yellow oil.

reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | naphthalene | 1.0 mol, 128.2 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
product | 1-propionaphthone | 145.3 g, yield: 79% | CCC(=O)C1=CC=CC2=CC=CC=C21 | C13H12O
